US05981572
Cyclopropanecarboxylic acid (3-chroman-5-yl-propyl)-amide
A solution of cyclopropanecarboxylic acid [3-(2H-chromen-5-yl)-propyl]-amide (76 mg) in ethanol (5 ml) was hydrogenated over platinum (5% on carbon, 10 mg) for 16 h. The catalyst was filtered off and the filtrate evaporated. The residue was purified by column chromatography on silica. Elution with hexane/ethyl acetate 2:1 gave the title compound as a colourless solid (56 mg)

reactant | cyclopropanecarboxylic acid [3-(2H-chromen-5-yl)-propyl]-amide | 76 mg | O1CC=CC2=C(C=CC=C12)CCCNC(=O)C1CC1 | C16H19NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | platinum | 10 mg | [Pt] | Pt
product | Cyclopropanecarboxylic acid (3-chroman-5-yl-propyl)-amide | 56 mg | O1CCCC2=C(C=CC=C12)CCCNC(=O)C1CC1 | C16H21NO2
